US05753664
2-[4-(4-Chlorobenzoyl)benzyl]thio-5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one
In dimethylformamide (30 ml) was dissolved 5-methyl-2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one (1.36 g) followed by addition of 1N-sodium hydroxide (7.5 ml). Then, under ice-cooling, a solution of 4-(4-chlorobenzoyl)benzyl bromide (2.48 g) in DMF (10 ml) was added dropwise. The mixture was then stirred at room temperature for 4 hours, at the end of which time it was poured in ice-water (250 ml). The resulting precipitate was collected by filtration, rinsed with water, and dried. The dried precipitate was purified by flash column chromatography (3-5% ethanol-containing chloroform) to provide the title compound (1.57 g). IH-NMR (DMSO-d6) 6: 2.23(3H,s), 4.50(2H,s), 6.65(1H,s), 7.60(2H,d,J=8.6Hz), 7.64(2H,d,J=8.6Hz), 7.69(2H,d,J=8.6Hz), 7.74(2H,d,J=8.6Hz), 11.42(1H,s), 11.95(1H,s).

reactant | 5-methyl-2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 1.36 g | CC1=CNC=2N=C(NC(C21)=O)S | C7H7N3OS
reactant | sodium hydroxide | 7.5 ml | [OH-].[Na+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 2.48 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[4-(4-Chlorobenzoyl)benzyl]thio-5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 1.57 g | ClC1=CC=C(C(=O)C2=CC=C(CSC=3NC(C4=C(N3)NC=C4C)=O)C=C2)C=C1 | C21H16ClN3O2S
